US04600709
37.5 g of 4-methoxybenzenesulphinic acid (obtained, for example, by reduction of 4-methoxybenzenesulphonyl chloride with sodium sulphite) are condensed oxidatively with 30.7 g of 4-methyl-1,2-benzenediol in a manner analogous to that described in Example 5a) and, after crystallisation from 1,2-dichloroethane, 4-(4-methoxyphenylsulphonyl)-5-methyl-1,2-benzenediol is obtained in the form of colourless crystals having a melting point of 145°-147.5°.

reactant | 4-methoxybenzenesulphinic acid | 37.5 g | COC1=CC=C(C=C1)S(=O)O | C7H8O3S
reactant | 4-methyl-1,2-benzenediol | 30.7 g | CC=1C=C(C(=CC1)O)O | C7H8O2
product | 4-(4-methoxyphenylsulphonyl)-5-methyl-1,2-benzenediol | COC1=CC=C(C=C1)S(=O)(=O)C=1C=C(C(=CC1C)O)O | C14H14O5S
